US05576324
2-Bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one:
A suspension of 5-hydroxy-8-methyl-6-(2-propenyl) carbostyril (64.57 g) in chloroform (2000 ml) was combined with N-bromosuccinimide (56.47 g) and refluxed with heat for 3 hours while stirring. The reaction mixture became yellow uniform solution. The reaction solution was washed with water, dried and condensed. n-Hexane was added to the concentrate, and crystallized. 91.40 g of the title compound was obtained as white powder.

reactant | 5-hydroxy-8-methyl-6-(2-propenyl) carbostyril | 64.57 g | OC1=C2C=CC(NC2=C(C=C1CC=C)C)=O | C13H13NO2
reactant | N-bromosuccinimide | 56.47 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | n-Hexane | CCCCCC | C6H14
solvent | chloroform | 2000 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromomethyl-5-methyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 91.40 g, Yield: 95.3% | BrCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C13H12BrNO2
